US06110943
A magnetically stirred solution of 0.5 g (1.52 mmol) of (1S)-1-Benzyl-2-[4-(3-methoxy-thiophen-2-yl)-3,6-dihydro-2H-pyridin-1-yl]-ethylamine and 0.42 ml (3.04 mmol) of triethylamine in 30 ml of dry dichloromethane was cooled in an ice bath under a dry nitrogen atmosphere. A solution of 0.25 g (1.67 mmol) of cyclohexane carbonyl chloride in 6 ml of dry dichloromethane was added dropwise over 10 minutes. The resulting solution was stirred at 4° C. for 1 hour and then the ice bath was removed and stirring was continued overnight (app. 18 hours), during which time the reaction came up to room temperature. TLC on silica gel (4% methanol/dichloromethane) revealed the absence of starting material and a new product (Rf=0.5). The reaction was concentrated on a rotary evaporator and partitioned between 75 ml of ethyl acetate and 50 ml of 1N aqueous sodium hydroxide. The organic layer was dried over anhydrous sodium sulfate and concentrated on a rotary evaporator. The resulting oil was purified by flash chromatography on silica gel (4% methanol/dichloromethane) to give 0.34 g of the desired (S)-cyclohexanecarboxylic acid {1-benzyl-2-[4-(3-methoxy-thiophen-2-yl)-3,6-dihydro-2H-pyridin-1-yl]-ethyl}-amide as oil which hardened upon exposure to vacuum. The compound was converted to its monofumerate·1.25 hydrate salt, yield=0.35 g (41%); mp=194-196° C.; [a]D25 =+5.86 (EtOH, c=0.5).

reactant | (1S)-1-Benzyl-2-[4-(3-methoxy-thiophen-2-yl)-3,6-dihydro-2H-pyridin-1-yl]-ethylamine | 1.52 mmol, 0.5 g | C(C1=CC=CC=C1)[C@@H](CN1CCC(=CC1)C=1SC=CC1OC)N | C19H24N2OS
reactant | triethylamine | 3.04 mmol, 0.42 ml | C(C)N(CC)CC | C6H15N
reactant | cyclohexane carbonyl chloride | 1.67 mmol, 0.25 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | (S)-cyclohexanecarboxylic acid {1-benzyl-2-[4-(3-methoxy-thiophen-2-yl)-3,6-dihydro-2H-pyridin-1-yl]-ethyl}-amide | 0.34 g | C(C1=CC=CC=C1)[C@@H](CN1CCC(=CC1)C=1SC=CC1OC)NC(=O)C1CCCCC1 | C26H34N2O2S
